US08609731B2
(S)-6-{1-oxo-6-[(S)-1-(tetrahydrofuran-2-yl)methoxy]-3,4-dihydro-1H-isoquinolin-2-yl}-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde
A mixture of 2-((S)-6-bromo-1,2,3,4-tetrahydronaphthalen-2-yl)-6-[(S)-1-(tetra-hydrofuran-2-yl)methoxy]-3,4-dihydro-2H-isoquinolin-1-one (1.10 g), palladium(II) acetate (16.2 mg), butyldi-1-adamantylphosphine (77 mg), TMEDA (0.27 ml) and toluene (22 ml) was heated to 120° C. in an autoclave under a hydrogen/carbon monoxide atmosphere for 14 hours. The cooled reaction mixture was diluted with ethyl acetate and washed first with dilute hydrochloric acid and then with sodium hydrogen carbonate solution. The organic phase was dried over sodium sulfate and concentrated. The residue was purified by preparative HPLC. The product was thus obtained with the molecular weight of 405.50 (C25H27NO4); MS (ESI): 406 (M+H+).

reactant | 2-((S)-6-bromo-1,2,3,4-tetrahydronaphthalen-2-yl)-6-[(S)-1-(tetra-hydrofuran-2-yl)methoxy]-3,4-dihydro-2H-isoquinolin-1-one | 1.10 g | BrC=1C=C2CC[C@@H](CC2=CC1)N1C(C2=CC=C(C=C2CC1)OC[C@H]1OCCC1)=O | C24H26BrNO3
reactant | butyldi-1-adamantylphosphine | 77 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | TMEDA | 0.27 ml | CN(C)CCN(C)C | C6H16N2
reactant | toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 16.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-6-{1-oxo-6-[(S)-1-(tetrahydrofuran-2-yl)methoxy]-3,4-dihydro-1H-isoquinolin-2-yl}-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde | O=C1N(CCC2=CC(=CC=C12)OC[C@H]1OCCC1)[C@@H]1CC=2C=CC(=CC2CC1)C=O | C25H27NO4
